US03936470
A mixture of 13.6 parts of 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone, 15.2 parts of 3-(4-chloro-1-naphthalenyloxy)-1,2-propanediol, 3 parts of 4-methylbenzenesulfonic acid, 80 parts of butanol and 180 parts of benzene is stirred and refluxed for 24 hours with water-separator. The reaction mixture is evaporated and the residue is triturated in 2-propanol. The product is filtered off and crystallized from butanol, yielding A + B 2-(bromomethyl)-4-(4-chloro-1-naphthalenyloxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane; mp. 122.7°C.

reactant | 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | 3-(4-chloro-1-naphthalenyloxy)-1,2-propanediol | ClC1=CC=C(C2=CC=CC=C12)OCC(CO)O | C13H13ClO3
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | butanol | C(CCC)O | C4H10O
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(bromomethyl)-4-(4-chloro-1-naphthalenyloxymethyl)-2-(2,4-dichlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)COC1=CC=C(C2=CC=CC=C12)Cl)C1=C(C=C(C=C1)Cl)Cl | C21H16BrCl3O3
